US08685969B2
10. Benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate
A mixture of 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid (0.237 g, 0.451 mmol), ammonium chloride (0.096 g, 1.804 mmol), N,N-diisopropylamine (0.378 mL, 2.165 mmol), BOP (0.259 g, 0.586 mmol), and N-methylmorpholine (0.193 mL, 1.759 mmol) in N,N-dimethylformamide (3 mL) was stirred at room temperature for 1.5 hr. To the reaction mixture was added water (30 mL), and the resulting mixture was stirred at room temperature for 30 min. The insoluble product (0.226 g, 0.431 mmol, 96% yield) was collected as a beige solid by suction filtration and dried over Drierite under vacuum.

reactant | 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.451 mmol, 0.237 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)O)C | C30H27N3O6
reactant | ammonium chloride | 1.804 mmol, 0.096 g | [Cl-].[NH4+]
reactant | N,N-diisopropylamine | 2.165 mmol, 0.378 mL | C(C)(C)NC(C)C | C6H15N
reactant | BOP | 0.586 mmol, 0.259 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 1.759 mmol, 0.193 mL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | Benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.431 mmol, 0.226 g, 96% yield | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C | C30H28N4O5
